US08476300B2
Synthesis of 6-(5-methylthiophen-2-yl)-5-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-ol methanesulfonate
Place 6-(5-methylthiophen-2-yl)-5-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-ol (105.7 mg, 0.23 mmol) in a vial. Add ethyl acetate (2 mL) and methanesulfonic acid (18 μL). Warm the resulting mixture to ˜60° C. with stirring. Add tetrahydrofuran (1 mL) to the resulting burnt orange solution with some dark brown gum on the bottom of the vial. Sonicate the resulting solution for 15 minutes. Carefully decant the suspension from gum that forms on the flask. Carefully collect the resulting solids by vacuum filtration and wash the resulting cake with pentane (2×2 mL). Dry the resulting solids in a 40° C. vacuum oven overnight to obtain the title compound. MP (DSC)=161.90° C.

reactant | 6-(5-methylthiophen-2-yl)-5-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-ol | 0.23 mmol, 105.7 mg | CC1=CC=C(S1)C=1C(=C2C=CC(=CC2=CC1)O)OC1=CC=C(C=C1)OCCN1CCCCC1 | C28H29NO3S
reactant | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
reactant | methanesulfonic acid | 18 μL | CS(=O)(=O)O | CH4O3S
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 6-(5-methylthiophen-2-yl)-5-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-ol methanesulfonate | CS(=O)(=O)OC1=CC2=CC=C(C(=C2C=C1)OC1=CC=C(C=C1)OCCN1CCCCC1)C=1SC(=CC1)C | C29H31NO5S2
